US05760032
4-(2-Chlorophenyl)-9-(2-ethoxycarbonylethyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine (5.78 g) was heated with 5% hydrochloric acid for 3 hours, and the mixture was cooled to room temperature. Sodium hydrogencarbonate (25.2 g) and chloroform were added. Indole-2-carbonyl chloride (2.67 g) was added with vigorous stirring, and the mixture was stirred for 4 hours. The organic layer was concentrated, and the residue was dissolved in methanol (39 ml). The solution was hydrolyzed with 2M sodium hydroxide (3.9 ml) and the reaction mixture was made acidic. The mixture was extracted with ethyl acetate and the extract was dried over magnesium sulfate. The solvent was evaporated and the obtained residue was recrystallized from ethanol to give 0.26 g of 3-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-3-(indole-2-carbonylaminomethyl) [1,2,4]triazol-5-yl)propionic acid.

reactant | 4-(2-Chlorophenyl)-9-(2-ethoxycarbonylethyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine | 5.78 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)CC)C(=NN2)CCC(=O)OCC | C21H21ClN4O2S
reactant | hydrochloric acid | Cl | ClH
reactant | Sodium hydrogencarbonate | 25.2 g | C(O)([O-])=O.[Na+]
reactant | Indole-2-carbonyl chloride | 2.67 g | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-3-(indole-2-carbonylaminomethyl) [1,2,4]triazol-5-yl)propionic acid | 0.26 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2CCC(=O)O)CNC(=O)C=2NC3=CC=CC=C3C2)C=CC=C1 | C28H24ClN5O4S
